2156-03-14 06:05:00 Physician Resident Progress Note
TITLE:
   - Started heparin drip after off integrillin
   - Received BBlocker for post MI care and tachycardia and became
   hypotensive. Seems to be dependent on tachycardia for CO
   - Received Swann which showed low CVP but WNL wedge
   - Given low CVP was given several liters of NS + 2U pRBCs
   - ECHO showed moderate focal LV systolic dysfunction consistent with
   large LAD infarction. Diastolic dysfunction. At least mild to moderate
   mitral regurgitation. Mild pulmonary artery hypertension. EF 30-35%.
   - Persistently hypotensive by essentially asymptomatic with low UOP
   - Small L PTX on CXR
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Clindamycin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-3-13**] 09:00 AM
   Other medications:
   Flowsheet Data as of  [**2156-3-14**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 81 (81 - 104) bpm
   BP: 75/36(45) {66/33(43) - 109/64(73)} mmHg
   RR: 15 (12 - 27) insp/min
   SpO2: 97%
   Height: 65 Inch
    CVP: 6 (3 - 8)mmHg
   PAP: (34 mmHg) / (13 mmHg)
   CO/CI (Fick): (6.5 L/min) / (3.2 L/min/m2)
   CO/CI (CCO): (5.1 L/min) / (2.5 L/min/m2)
   SvO2: 60%
   Mixed Venous O2% Sat: 60 - 63
                              Total In:
                                                                  3,209 mL
                                                                  1,428 mL
   PO:
                                                                    200 mL
                              TF:
   IVF:
                                                                  3,009 mL
                                                                  1,043 mL
   Blood products:
   384 mL
   Total out:
                                                                    675 mL
                                                                     75 mL
   Urine:
                                                                    675 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,534 mL
                                                                  1,353 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: Elderly female, obese, NAD
   HEENT: Right surgical pupil, EOMI. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa.
   NECK: Supple with no JVD. L subclav line. R stable hematoma from IJ
   attempt
   CARDIAC: RRR, normal S1, S2. Systolic murmur at RUSB. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, obese, NTND. No HSM or tenderness.
   EXTREMITIES: 3+ pitting oedema  bilaterally
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Femoral 2+, Right femoral hematoma, DP 2+ PT 2+
   Left: Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   157 K/uL
   7.9 g/dL
   258 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   25 mg/dL
   99 mEq/L
   133 mEq/L
   23.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2156-3-13**]  04:52 AM
                             [**2156-3-13**]  10:58 AM
                             [**2156-3-13**]  07:34 PM
                             [**2156-3-13**]  09:00 PM
                             [**2156-3-13**]  11:44 PM
                             [**2156-3-14**]  03:35 AM
   WBC
   14.4
   9.1
   9.4
   7.7
   Hct
   31.8
   30.3
   24.0
   24.5
   23.1
   Plt
   [**Telephone/Fax (3) 4519**]03
   157
   Cr
   0.9
   TropT
   22.70
   9.88
   Glucose
   258
   Other labs: PT / PTT / INR:16.4/150.0/1.5, CK / CKMB /
   Troponin-T:133/20/9.88, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   72 yo female with diabetes presenting with STEMI, s/p PCI to LAD.
   .
   # CORONARIES: STEMI culprit lesion in LAD, S/P BMS.  Cardiac enzymes
   trending down.
   - Continue ASA, clopidogrel, Statin, metoprolol, [**Last Name (un) **]
   - Continue with heparin drip s/p Integrillin
   - Echocardiogram as below
   - PT after 3 days
   - Serial ECGs, telemetry
   .
   # PUMP - Last known LVEF normal.  However, does have peripheral edema
   which may be due to volume overload versus venous insufficiency.
   Echocardiogram showed moderate focal LV systolic dysfunction consistent
   with large LAD infarction. Diastolic dysfunction. At least mild to
   moderate mitral regurgitation. Mild pulmonary artery hypertension. EF
   30-35%.
   - Will need anticoagulation for longer term in setting of LV apical
   hypokinesis, at risk for LV thrombus. Hold starting coumadin while swan
   in place.  Continue heparin gtt.
   - s/p PA catheter placement, hemodynamics c/w low volume state, no
   evidence of elevated left sided filling pressures.
   -IVF/PRBCs for tailored therapy.
   -Start low dose ACEI/[**Last Name (un) **]
   .
   #. Rhythm: NS for now with some atrial ectopy
   .
   # Dropping Hct: Got 2 units PRBCs after PA catheter placement while on
   heparin gtt.  Groin, neck and CXR all look ok, no evidence active
   bleeding from any needle insertion site.
   -Continue to monitor
   -PM hct
   -Transfuse PRN
   .
   # Diabetes - Continue glargine, sliding scale, diabetic diet
   .
   # Chronic pain - continue outpatient regimen
   .
   FEN:  Heart-healthy, low-sodium diabetic diet
   ACCESS: PIV's , L SC PA catheter (inserted [**3-13**])
   PROPHYLAXIS:  Heparin gtt, PPI, bowel regimen
   CODE: Presumed full
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2156-3-13**] 05:05 AM
   20 Gauge - [**2156-3-13**] 06:16 AM
   PA Catheter - [**2156-3-13**] 05:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   All events reviewed;
   Feeling much better today after volume and transfusion. Some pleuritic
   chest pain;
   Of note: creatinine increased to 1.9 (from 0.9); Hct now 29 after 2
   units;
   hemodynamics: PA sat 60-64%; PAD 16-20; CVP 7-10
   Physical Examination
   Resting comfortably;
   Soft intermittent pericardial rub - varies with inspiration; +S4; ? S3;
   No murmur;
   Groin without mass or tenderness and no evidence of bleeding source.
   Medical Decision Making
   Hemodynamically improved; Has developed contrast nephropathy so will
   need to be careful with volumes and follow closely.
   Anemia improved;
   Reelevation of total CK without increased MB or troponin so unlikely
   myocardial.
   Plan for today: Begin low dose lisinopril; Maintain  current volume;
   [**Month (only) 8**] need gentle diuresis if PCWP increases >20; continue heparin given
   apical akinesis and low EF; Will hope to start coumadin tomorrow if
   bleeding concerns less.
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 23**] or health care proxy.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   Hemodynamic monitoriing, instability. Large acute MI;
   ------ Protected Section Addendum Entered By:[**Name (NI) 58**] [**Last Name (NamePattern1) **], MD
   on:[**2156-3-14**] 11:09 ------

2156-03-15 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt was tachycardic to 120s in am, sats stable in low-mid 90s on 5.5L,
   clinically unchanged. EKG stable. Improved after Oxycodone.
   - Started standing Tylenol
   - In pm, was paged that pt was more SOB while talking on phone. Was
   satting low-mid 90s on 4L. CVP 12, PCWP 19. Lytes sent were wnl. By
   arrival to eval, pt reported that SOB had resolved. Gave Lasix 40mg IV
   x 1-> put out 260 over 2 hours, with SOB further improved.
   - ACEI d'ced given Cr bump from 0.9->1.9 this am
   - Am CXR showed increased density in LUL, compressive atelectasis [**3-8**]
   PTX vs. pulm edema vs. infiltrate per rads. Recc insp/exp CXR-> PTX
   resolved, definite worsening opacity in LUL.
   - Pm crit checked, concern for RP bleed given above finding. Hct was
   25.2 <-25.6 in the am. Therefore, did not bump appropriately to 2 units
   overnight. Gave 1 addl unit. Post-tf crit-> 25.3.
   - CT showed hemothorax, thoracics surgery consulted
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Clindamycin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-3-14**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-3-15**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 93 (88 - 117) bpm
   BP: 104/51(64) {85/41(54) - 130/64(77)} mmHg
   RR: 17 (16 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 12 (6 - 17)mmHg
   PAP: (55 mmHg) / (22 mmHg)
   PCWP: 19 (19 - 19) mmHg
   CO/CI (Fick): (6.7 L/min) / (3.3 L/min/m2)
   CO/CI (CCO): (4.6 L/min) / (2.4 L/min/m2)
   SvO2: 60%
   Mixed Venous O2% Sat: 53 - 59
   Total In:
                                                                  3,610 mL
                                                                     61 mL
   PO:
                                                                    880 mL
   TF:
   IVF:
                                                                  1,730 mL
                                                                     61 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                    583 mL
                                                                    510 mL
   Urine:
                                                                    583 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,027 mL
                                                                   -449 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   GENERAL: Elderly female, obese, NAD
   HEENT: Right surgical pupil, EOMI. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa.
   NECK: Supple with no JVD. L subclav line. R stable hematoma from IJ
   attempt
   CARDIAC: RRR, normal S1, S2. Systolic murmur at RUSB. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, obese, NTND. No HSM or tenderness.
   EXTREMITIES: 3+ pitting oedema  bilaterally
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Femoral 2+, Right femoral hematoma, DP 2+ PT 2+
   Left: Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   133 K/uL
   8.9 g/dL
   87 mg/dL
   2.3 mg/dL
   23 mEq/L
   4.7 mEq/L
   41 mg/dL
   103 mEq/L
   132 mEq/L
   25.3 %
   7.9 K/uL
        [image002.jpg]
                             [**2156-3-13**]  07:34 PM
                             [**2156-3-13**]  09:00 PM
                             [**2156-3-13**]  11:44 PM
                             [**2156-3-14**]  03:35 AM
                             [**2156-3-14**]  09:09 AM
                             [**2156-3-14**]  09:32 AM
                             [**2156-3-14**]  02:14 PM
                             [**2156-3-14**]  04:43 PM
                             [**2156-3-14**]  08:31 PM
                             [**2156-3-15**]  03:39 AM
   WBC
   9.1
   9.4
   7.7
   7.9
   Hct
   24.0
   24.5
   23.1
   25.6
   29
   25.2
   29
   25.3
   Plt
   192
   203
   157
   133
   Cr
   1.9
   2.3
   TropT
   9.88
   8.33
   Glucose
   118
   111
   87
   Other labs: PT / PTT / INR:16.4/150.0/1.5, CK / CKMB /
   Troponin-T:372/15/8.33, ALT / AST:31/109, Alk Phos / T Bili:100/0.5,
   LDH:555 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   72 yo female with diabetes presenting with STEMI, s/p PCI to LAD.
   # Dropping Hct: Pt tachycardic, SOB, CXR with increasing LLL opacity,
   CT with evidence hemothorax.  This is likely due to ooze from
   subclavian vein access, not PA rupture.
   -Thoracics consulted, placing chest tube today, follow up their recs
   -Tx prn, goal Hct >27-28
   -f/u serial CXRs
   -Continue to monitor
   -PM hct
   # CORONARIES: STEMI culprit lesion in LAD, S/P BMS.  Cardiac enzymes
   trending down.
   - Continue ASA, clopidogrel, Statin, metoprolol, hold [**Last Name (un) **] for inc
   creatinine
   - Holding heparin in setting of bleed, restart anticoagulation when
   bleeding stabilized.
   - PT once acute issues resolved
   - Serial ECGs, telemetry
   # PUMP - Last known LVEF normal.  However, does have peripheral edema
   which may be due to volume overload versus venous insufficiency.
   Echocardiogram showed moderate focal LV systolic dysfunction consistent
   with large LAD infarction. Diastolic dysfunction. At least mild to
   moderate mitral regurgitation. Mild pulmonary artery hypertension. EF
   30-35%.
   - Will need anticoagulation for longer term in setting of LV apical
   hypokinesis, at risk for LV thrombus. Hold starting coumadin while swan
   in place.  Continue heparin gtt.
   - s/p PA catheter placement, hemodynamics c/w low volume state, no
   evidence of elevated left sided filling pressures.
   -IVF/PRBCs for tailored therapy.
   - d/c PA catheter once CT placed, pt stabilized. Will aim for tomorrow
   ([**3-16**])
   -Holding [**Last Name (un) **] as above for inc creatinine
   # Increased Cr increased to 2.3
   -hold [**Last Name (un) **] for now, continue to monitor, continue with blood/IVF
   #. Rhythm: NS for now with some atrial ectopy
   # Diabetes - Continue glargine, sliding scale, diabetic diet
   # Chronic pain - continue outpatient regimen
   FEN:  Heart-healthy, low-sodium diabetic diet
   ACCESS: PIV's , L SC PA catheter (inserted [**3-13**])
   PROPHYLAXIS:  Heparin gtt (on hold today for bleed, restart when able),
   PPI, bowel regimen
   CODE: Presumed full
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-3-13**] 06:16 AM
   PA Catheter - [**2156-3-13**] 05:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Increased hypoxia and fillling pressures.
   Increasing atelectasis and L pleural effusion consistent with
   hemothorax.
   CT consistent with hemothorax. No subclavian mass.
   Physical Examination
   Comfortable, pale.
   HR 90-100; SBP 110-120
   Decreased BS L side.
   Medical Decision Making
   Acute hemothorax related to L subclavian puncture and anticoagulants.
   Cardiac status relatively stable although increasing filling pressures
   in response to transfusion and volume. Responding to diuresis.
   Acute renal insufficiency secondary to  contrast, hypotension.
   PLan for today: Chest tube drainage, monitor Hct to 27-28 range with
   RBC transfusion as needed, hold anticoagulants with continued aspirin
   and Plavix. Hold beta blocker and ACE inhibitor for now.
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 23**] or health care proxy.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   Hemodynamic instability
   ------ Protected Section Addendum Entered By:[**Name (NI) 58**] [**Last Name (NamePattern1) **], MD
   on:[**2156-3-15**] 10:21 ------

2156-03-16 06:21:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: chest pain s/p cardiac catherization
   24 Hour Events:
   - Patient with hemothorax and now subsequent chest tube today by
   thorassic surgery => put out 1.5 liters of blood initially. placed to
   20 cm wall suctyion.
   - apparently pt requires daily chest x-rays which are suppose to occur
   prior to 5:30 am rounds so that thoraccic surgery can look daily
   - chest tube needs to be maintained to suction for a few days,
   thorassic surgery to follow
   - patient got transfused oe unit of pRBCs, and had elevated wedge
   pressur so got lasix 40 IV once
   - holding heparin, continuing ASA, plavix
   - d/c valsartan yesterday (ACE inhibitor d/c yesterday)
   - kept swan in for now (consider d/c this morning)
   - patient with severe pain after chest tube placement required fentayl
   boluses IV to which she responded well, so written for q 1 hour pain
   medications
   - post transfusion crit 30 (bumped appropriately from 25)
   .
 THORACENTESIS - At [**2156-3-15**] 10:04 AM
   With surgical attending at bedside. Time out done confirming correct
   procedure, site, patient name and birthday.
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Clindamycin
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2156-3-15**] 10:20 AM
   Morphine Sulfate - [**2156-3-15**] 01:55 PM
   Furosemide (Lasix) - [**2156-3-15**] 03:40 PM
   Fentanyl - [**2156-3-15**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-3-16**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 80 (80 - 104) bpm
   BP: 100/47(60) {88/37(50) - 135/67(80)} mmHg
   RR: 15 (10 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 8 (4 - 13)mmHg
   PAP: (37 mmHg) / (15 mmHg)
   CO/CI (Fick): (5.9 L/min) / (2.9 L/min/m2)
   CO/CI (CCO): (5.1 L/min) / (2.6 L/min/m2)
   SvO2: 71%
   Mixed Venous O2% Sat: 61 - 63
   Total In:
                                                                  1,370 mL
                                                                    405 mL
   PO:
                                                                    640 mL
                                                                    280 mL
   TF:
   IVF:
                                                                    380 mL
                                                                    125 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,421 mL
                                                                    230 mL
   Urine:
                                                                  1,731 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,052 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present, gas on percussion
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   148 K/uL
   10.4 g/dL
   57 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.2 mEq/L
   47 mg/dL
   103 mEq/L
   134 mEq/L
   28.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2156-3-14**]  09:09 AM
                             [**2156-3-14**]  09:32 AM
                             [**2156-3-14**]  02:14 PM
                             [**2156-3-14**]  04:43 PM
                             [**2156-3-14**]  08:31 PM
                             [**2156-3-15**]  03:39 AM
                             [**2156-3-15**]  12:29 PM
                             [**2156-3-15**]  04:31 PM
                             [**2156-3-15**]  05:02 PM
                             [**2156-3-16**]  05:08 AM
   WBC
   7.9
   8.2
   Hct
   25.6
   29
   25.2
   29
   25.3
   33
   30.3
   41
   28.9
   Plt
   133
   148
   Cr
   2.3
   Glucose
   111
   87
   Other labs: PT / PTT / INR:13.7/32.7/1.2, CK / CKMB /
   Troponin-T:372/15/8.33, ALT / AST:31/109, Alk Phos / T Bili:100/0.5,
   LDH:555 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   72 yo female with diabetes presenting with STEMI, s/p PCI to LAD.
   Course complicated after Swan placement with hemothorax requiring chest
   tube placement.
   # Dropping Hct: Pt tachycardic, SOB, CXR with increasing LLL opacity,
   CT with evidence of hemothorax.  This is likely due to ooze from
   subclavian vein access, not PA rupture. Thoracic surgery consulted and
   placed chest tube [**3-15**] with >1.5L drained.  Transfused additional unit
   yesterday with appropriate bump in Hct.
   - Thoracics following, appreciate their recs
   -Tx prn, goal Hct >27-28
   -f/u serial CXRs
   -Continue to monitor
   -serial Hct [**Hospital1 **]
   # CORONARIES: Presented with STEMI, found to have culprit lesion in LAD
   on cath, S/P BMS.  Cardiac enzymes trending down.
   - Continue ASA, clopidogrel, Statin, BB on hold for hypotension and
   hold [**Last Name (un) **] for inc creatinine
   - restart BB today, metoprolol 12.5 [**Hospital1 **] and uptitrate as needed
   - Holding heparin in setting of bleed, restart anticoagulation when
   bleeding stabilized.
   - PT once acute issues resolved
   - Serial ECGs, telemetry
   # PUMP - Last known LVEF normal.  However, does have peripheral edema
   which may be due to volume overload versus venous insufficiency.
   Echocardiogram showed moderate focal LV systolic dysfunction consistent
   with large LAD infarction. Diastolic dysfunction. At least mild to
   moderate mitral regurgitation. Mild pulmonary artery hypertension. EF
   30-35%.
   - Will need anticoagulation for longer term in setting of LV apical
   hypokinesis, at risk for LV thrombus. Hold starting coumadin while swan
   in place.  restart heparin gtt once bleeding stabilized.
   - s/p PA catheter placement, hemodynamics c/w low volume state, no
   evidence of elevated left sided filling pressures.
   -IVF/PRBCs for tailored therapy.
   - d/c PA catheter once CT placed, pt stabilized, likely today
   -Holding [**Last Name (un) **] as above for inc Creatinine
   - Plan to restart anticoagulation for apical thrombus PPx once
   hemothorax stabilized
   # ARF: Cr increased since admission from 0.9 to 2.3.  Etiology could be
   [**3-8**] hypotension vs. constrast induced.  Cr now 2.2.  UOP good.
   -hold [**Last Name (un) **] for now, continue to monitor, continue with blood/IVF
    #. Rhythm: NS for now with some atrial ectopy.  Starting BB today
    # Diabetes - Continue glargine, sliding scale, diabetic diet
    # Chronic pain and acute pain - continue outpatient regimen, added
   fentayl IV boluses for pain from chest tube site
    FEN:  Heart-healthy, low-sodium diabetic diet
   ACCESS: PIV's , L SC PA catheter (inserted [**3-13**])
   PROPHYLAXIS:  Pneumoboots, PPI, bowel regimen
   CODE: Full
   DISPO: CCU for now
 PLEURAL EFFUSION, ACUTE
 HYPOTENSION (NOT SHOCK)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-3-13**] 06:16 AM
   PA Catheter - [**2156-3-13**] 05:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I would add the following remarks:
   History
   Feeling better today. Pain control improved.
   Approximately 200 cc serosanquineous peural drainage per 8 hours.
   Physical Examination
   Comfortable in bed.
   No change in cardiac exam.
   Medical Decision Making
   Hemodynamics much improved. Hct now stable after 4 th unit PRBC.
   Creatinine plateau and urin output improved.
   Plan: D/C PA catheter; Maintain Chest tube today per thoracic; Maintain
   even I/Os; Start low dose beta blocker; Start ACE inhibitorwhen renal
   function stable.
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 23**] or health care proxy.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 58**] [**Last Name (NamePattern1) **], MD
   on:[**2156-3-16**] 12:22 ------

2156-03-17 06:26:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   - Decreasing drainage from chest tube
   - Holding off on anticoagulation for now pending thoracic surgery recs
   - Ongoing constipation. Increased bowel regimen
   - Ordered incentive spirometry
   - Ongoing pain control issue re: chest tube. Pt doing well now on
   oxycontin. Refusing lidocaine patch to affected area
   - Pulled Swann Ganz catheter
   - Pt initially refused PICC line placement. Has now agreed. Will place
   on [**2156-3-17**] and then pull subclavian line
   - Wound CS pending for saccral decubitus
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Clindamycin
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-3-16**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-3-17**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 87 (79 - 95) bpm
   BP: 105/54(65) {100/46(59) - 146/67(83)} mmHg
   RR: 11 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 10 (9 - 10)mmHg
   PAP: (45 mmHg) / (21 mmHg)
   Total In:
                                                                  1,100 mL
                                                                    120 mL
   PO:
                                                                    880 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    220 mL
   Blood products:
   Total out:
                                                                  3,065 mL
                                                                    300 mL
   Urine:
                                                                  2,035 mL
                                                                    200 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -1,965 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: Elderly female, obese, NAD
   HEENT: Right surgical pupil, EOMI. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa.
   NECK: Supple with no JVD. L subclav line. R stable hematoma from IJ
   attempt
   CARDIAC: RRR, normal S1, S2. Systolic murmur at RUSB. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.  L chest tube in place
   ABDOMEN: Soft, obese, NTND. No HSM or tenderness.
   EXTREMITIES: 3+ pitting oedema  bilaterally
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Femoral 2+, Right femoral hematoma, DP 2+ PT 2+
   Left: Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   148 K/uL
   10.4 g/dL
   57 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.2 mEq/L
   47 mg/dL
   103 mEq/L
   134 mEq/L
   29.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2156-3-14**]  09:32 AM
                             [**2156-3-14**]  02:14 PM
                             [**2156-3-14**]  04:43 PM
                             [**2156-3-14**]  08:31 PM
                             [**2156-3-15**]  03:39 AM
                             [**2156-3-15**]  12:29 PM
                             [**2156-3-15**]  04:31 PM
                             [**2156-3-15**]  05:02 PM
                             [**2156-3-16**]  05:08 AM
                             [**2156-3-16**]  05:21 PM
   WBC
   7.9
   8.2
   Hct
   29
   25.2
   29
   25.3
   33
   30.3
   41
   28.9
   29.2
   Plt
   133
   148
   Cr
   2.3
   2.2
   Glucose
   111
   87
   57
   Other labs: PT / PTT / INR:13.7/32.7/1.2, CK / CKMB /
   Troponin-T:372/15/8.33, ALT / AST:20/31, Alk Phos / T Bili:113/0.5,
   Albumin:2.5 g/dL, LDH:456 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
   72 yo female with diabetes presenting with STEMI, s/p PCI to LAD.
   Course complicated after Swan placement with hemothorax requiring chest
   tube placement.
   # Hemothorax: Appreciate thoracics involvement.  Chest tube placed to
   wall suction after having drained >1.5 litres, and hematocrit has
   stabilized after 4 units transfused.  This is likely due to ooze from
   subclavian vein access, not PA rupture. -
   -Tx prn, goal Hct >27-28
   -f/u serial CXRs
   -Continue to monitor
   -serial Hct [**Hospital1 **]
   - Now stabilized
   # CORONARIES: Presented with STEMI, found to have culprit lesion in LAD
   on cath, S/P BMS.  Cardiac enzymes trending down.
   - Continue ASA, clopidogrel, Statin, BB restarted at 12.5mg [**Hospital1 **],
   uptitrate as tolerated
   - restart ACE-I on [**2156-3-18**] if renal function improving
   - Holding heparin in setting of bleed, restart anticoagulation when
   bleeding stabilized.
   - PT once acute issues resolved
   - Serial ECGs, telemetry
   # PUMP
 Ischemic cardiomyopathy with LVEF 30-35%.  Mild pulmonary
   artery hypertension.
   - Will need anticoagulation until [**2156-9-10**] (6 months) for LV apical
   hypokinesis and risk for LV thrombus. Hold starting coumadin until
   chest tube pulled.
   - PA catheter readings suggest low-volume state, so this was
   discontinued yesterday
   - IVF/PRBCs PRN
   - Holding [**Last Name (un) **] until [**2156-3-17**], consider ACE-I instead if no absolute
   contraindication
   # ARF: Cr increased since admission from 0.9 to 2.3, now trending
   down.  Etiology could be [**3-8**] hypotension vs. constrast induced.  UOP
   good.
   - continue to monitor, restart ACE-I vs. [**Last Name (un) **] when able
   # Rhythm: NS for now with some atrial ectopy.  Starting BB today
   # Diabetes - Continue glargine, sliding scale, diabetic diet
   # Chronic pain and acute pain - continue outpatient regimen, added
   fentayl IV boluses for pain from chest tube site
    FEN:  Heart-healthy, low-sodium diabetic diet
   ACCESS: PIV's , L SC Cordis (inserted [**3-13**]), plan to pull once PICC
   inserted
   PROPHYLAXIS:  Pneumoboots, PPI, bowel regimen
   CODE: Full
   DISPO: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Feels much better. Mild left sided chest pain related to chest tube.
   creatinine decreased to 1.6
   Physical Examination
   Comfortable;
   No respiratory distress;
   Lungs: clear anterior;
   Heart: RRR; Normal S1 and 2; No murmur or S3.
   Medical Decision Making
   Good recovery after large anterior MI complicated by hypotension due to
   low volumes and then hemothorax as complication of left subclavian
   line.
   Hemodynamics stable; renal function improving; less chest tube
   drainage.
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 23**] or health care proxy.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 58**] [**Last Name (NamePattern1) **], MD
   on:[**2156-3-17**] 18:13 ------

2156-03-18 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continued decreasing drainage from chest tube
   - PICC placed
   - Cordis pulled without incident
   - Per CT [**Doctor First Name **], ok to re-start heparin 3hrs after Cordis pulled if chest
   tube output stable or decreasing-> hep gtt resumed
   - Crit stable
   - PT recs-> likely rehab
   - patient told by thorassic surgery that likely keep the chest tube in
   until tomorrow
   Allergies:
   Penicillins
   Unknown;
   Cephalosporins
   Unknown;
   Clindamycin
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient endorses discomfort at the site of chest
   tube, denies any chest pain, shortness of breath, or abdominal pain
   Flowsheet Data as of  [**2156-3-18**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 80 (80 - 98) bpm
   BP: 107/48(62) {89/45(56) - 137/60(77)} mmHg
   RR: 14 (0 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.3 kg (admission): 97.7 kg
   Height: 65 Inch
             Total In:
                                                                  1,312 mL
                                                                    202 mL
   PO:
                                                                  1,220 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     92 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  2,865 mL
                                                                  1,000 mL
   Urine:
                                                                  2,485 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,553 mL
                                                                   -798 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ////
   Physical Examination
   GENERAL: Elderly female, obese, NAD
   HEENT: Right surgical pupil, EOMI. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa.
   NECK: Supple with no JVD. L subclav line. R stable hematoma from IJ
   attempt
   CARDIAC: RRR, normal S1, S2. Systolic murmur at RUSB. No thrills,
   lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.  L chest tube in place
   ABDOMEN: Soft, obese, NTND. No HSM or tenderness.
   EXTREMITIES: 3+ pitting oedema  bilaterally
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Femoral 2+, Right femoral hematoma, DP 2+ PT 2+
   Left: Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   165 K/uL
   10.0 g/dL
   83 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.1 mEq/L
   33 mg/dL
   107 mEq/L
   138 mEq/L
   29.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2156-3-14**]  04:43 PM
                             [**2156-3-14**]  08:31 PM
                             [**2156-3-15**]  03:39 AM
                             [**2156-3-15**]  12:29 PM
                             [**2156-3-15**]  04:31 PM
                             [**2156-3-15**]  05:02 PM
                             [**2156-3-16**]  05:08 AM
                             [**2156-3-16**]  05:21 PM
                             [**2156-3-17**]  05:20 AM
                             [**2156-3-17**]  12:26 PM
   WBC
   7.9
   8.2
   5.9
   Hct
   29
   25.3
   33
   30.3
   41
   28.9
   29.2
   28.7
   Plt
   133
   148
   165
   Cr
   2.3
   2.2
   1.6
   Glucose
   111
   87
   57
   71
   Other labs: PT / PTT / INR:12.4/27.7/1.0, CK / CKMB /
   Troponin-T:372/15/8.33, ALT / AST:20/31, Alk Phos / T Bili:113/0.5,
   Albumin:2.5 g/dL, LDH:456 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   72 yo female with diabetes presenting with STEMI, s/p PCI to LAD.
   Course complicated after Swan placement with hemothorax requiring chest
   tube placement.
   # Hemothorax: Appreciate thoracics involvement.  Chest tube placed to
   wall suction after having drained >1.5 litres, and hematocrit
   stabilized after 4 units transfused.  Output decreasing.  This is
   likely due to ooze from subclavian vein access, not PA rupture. -
   -Tx prn, goal Hct >27-28
   - f/u serial CXRs, repeat xray today while on water seal
   - serial Hct [**Hospital1 **]
   - f/u thorassic recs
   # LUE swelling: Noted on rounds today, left arm more swollen, had CVL
   on that side.
   - LUE US today to r/o clot
   # CORONARIES: Presented with STEMI, found to have culprit lesion in LAD
   on cath, S/P BMS.  Cardiac enzymes trending down.
   - Continue ASA, clopidogrel, Statin, BB restarted at 12.5mg [**Hospital1 **],
   uptitrate as tolerated
   - hold ACE I until renal function returns to baseline
   - restarted heparin yesterday after removed central line.
   - discuss anticoagulation with outpt opthalmologist given risk of
   vitreous hemorrhage
   - PT evaluated patient and stated likely  needs rehab on discharge
   - Serial ECGs, telemetry
   # PUMP
 Ischemic cardiomyopathy with LVEF 30-35%.  Mild pulmonary
   artery hypertension.
   - Will need anticoagulation until [**2156-9-10**] (6 months) for LV apical
   hypokinesis and risk for LV thrombus. Hold starting coumadin until
   chest tube pulled.
   - IVF/PRBCs PRN
   - goal I/O even
   - restart ACE inhibitor once creatinine improves to baseline
   # ARF: Cr increased since admission from 0.9 to 2.3, now trending down
   currently 1.2 (baseline 0.9).  Etiology could be [**3-8**] hypotension vs.
   constrast induced nephropathy.  UOP good.
   - continue to monitor, start ACE-I  when creatinine at baseline
   # Rhythm: NS for now with some atrial ectopy.  Patient maintained on
   beta blocker
   # Diabetes - Continue glargine, sliding scale, diabetic diet
   # Chronic pain and acute pain
 changed to MS contin and morphine IR
   for breakthrough given oxycontin shortage
    FEN:  Heart-healthy, low-sodium diabetic diet
   ACCESS: PIV's , PICC placed [**2156-3-17**]
   PROPHYLAXIS:  Hep gtt, PPI, bowel regimen
   CODE: Full
   DISPO: consider d/c from CCU after chest tube pulled
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-3-17**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   As recorded; I/Os negative with probable diuretic phase ATN;
   Physical Examination
   No change
   Medical Decision Making
   Hemodyamics stable;
   Still requiring chest tube due to + drainage and ? apical pneumothorax
   Renal failure improving;
   Will consult with ophthalmology re risk of coumadin.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 58**] [**Last Name (NamePattern1) **], MD
   on:[**2156-3-18**] 18:35 ------